US07754739B2
1-(2,3-Dihydrobenzofuran-5-yl)cyclopropanecarboxylic acid (24.0 mg, 0.118 mmol) was placed in an oven-dried flask which was allowed to cool under nitrogen. Thionyl chloride (0.3 mL) and N,N-dimethylformamide (0.03 mL) were added and the solution was allowed to stir for 30 minutes. The excess thionyl chloride was removed under vacuum and the resulting oil was re-dissolved in dichloromethane containing triethylamine (0.0495 mL, 0.353 mmol). tert-Butyl 3-(6-amino-3-methylpyridin-2-yl)benzoate (33.4 mg, 0.118 mmol) was added and the reaction mixture was allowed to stir for 3 hours. Trifluoroacetic acid (1 mL) was added and the solution was allowed to stir for an additional 3 hours. The mixture was evaporated to dryness, dissolved in a minimum of N,N-dimethylformamide and then purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 3-(6-(1-(2,3-dihydrobenzofuran-5-yl)cyclo-propanecarboxamido)-3-methylpyridin-2-yl)benzoic acid. ESI-MS m/z calc. 414.2, found; 415.0 (M+1)+ Retention time 1.64 minutes.

reactant | 1-(2,3-Dihydrobenzofuran-5-yl)cyclopropanecarboxylic acid | 0.118 mmol, 24.0 mg | O1CCC2=C1C=CC(=C2)C2(CC2)C(=O)O | C12H12O3
reactant | Thionyl chloride | 0.3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 0.353 mmol, 0.0495 mL | C(C)N(CC)CC | C6H15N
reactant | tert-Butyl 3-(6-amino-3-methylpyridin-2-yl)benzoate | 0.118 mmol, 33.4 mg | NC1=CC=C(C(=N1)C=1C=C(C(=O)OC(C)(C)C)C=CC1)C | C17H20N2O2
reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylformamide | 0.03 mL | CN(C=O)C | C3H7NO
product | 3-(6-(1-(2,3-dihydrobenzofuran-5-yl)cyclo-propanecarboxamido)-3-methylpyridin-2-yl)benzoic acid | O1CCC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C(=O)O)C=CC2)C | C25H22N2O4
